US07687515B2
A solution of 4-bromo-1-ethoxy-3-trifluoromethyl-benzene (21.25 g, 90.8 mmol) in dry tetrahydrofuran (120 ml) was purged with nitrogen, cooled to −78° C. and BuLi (2.5 M solution in hexanes, 39.96 ml, 99.9 mmol) added dropwise maintaining a temperature below −70° C. The mixture was stirred for 5 minutes before addition of triisopropyl borate (17.9 g, 95.36 mmol) in one portion. Stirring was continued at −78° C. for 30 minutes before allowing to come to room temperature. The reaction was quenched by addition of 10 ml of acetic acid dissolved in 150 ml water before concentration under reduced pressure to remove tetrahydrofuran. The precipitate was collected by filtration, dissolved in ethyl acetate and dried over sodium sulfate. Purification was achieved by recrystalisation from ethyl acetate/hexane mixtures to afford 4-ethoxy-3-trifluoromethylphenylboronic acid (10 g). 1H NMR (DMSOd6): δ 8.08 (s, 1H) 8.01 (d, 1H) 7.2 (d, 1H) 4.18 (q, 2H) 1.34 (t, 3H).

reactant | 4-bromo-1-ethoxy-3-trifluoromethyl-benzene | 90.8 mmol, 21.25 g | BrC1=C(C=C(C=C1)OCC)C(F)(F)F | C9H8BrF3O
reactant | BuLi | 99.9 mmol, 2.5 M, 39.96 ml | [Li]CCCC
reactant | triisopropyl borate | 95.36 mmol, 17.9 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 4-ethoxy-3-trifluoromethylphenylboronic acid | 10 g | C(C)OC1=C(C=C(C=C1)B(O)O)C(F)(F)F | C9H10BF3O3
